US07985753B2
6-Methyl-8,9-dihydro-1,3-dioxa-7-aza-cyclopenta[a]naphthalene
In close analogy to the procedure described above, N-(2-Benzo[1,3]dioxol-4-yl-ethyl)-acetamide is reacted with phosphorus pentoxide to provide the title compound.

reactant | N-(2-Benzo[1,3]dioxol-4-yl-ethyl)-acetamide | O1COC2=C1C=CC=C2CCNC(C)=O | C11H13NO3
reactant | phosphorus pentoxide | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
product | 6-Methyl-8,9-dihydro-1,3-dioxa-7-aza-cyclopenta[a]naphthalene | CC=1C2=CC=C3C(=C2CCN1)OCO3 | C11H11NO2
